US08115015B2
20 gm of R—(R*,R*)]-1,1-dimethylethyl-2-(4-fluorophenyl)-dihydroxy-5-(1-methylethyl)-3-phenyl-4-[(phenylamino)carbonyl]-1H-pyrrole-1-heptanoate was taken in 400 mL of acetonitrile to obtain clear solution at 40° C. to 45° C. The reaction mixture was cooled to 25° C. to 30° C. and 2.60 gm of NaOH solution in 100 mL of water was added within 15 min and stirred for 30 min. Acetonitrile was distilled under vacuum to obtain white slurry or solid. The compound thus obtained was further cooled at 10° C. to 15° C. 400 mL of water was added followed by slow addition of 400 mL of ethyl acetate to dissolve the solution. 10.46 gm of calcium acetate solution in 244 mL of water was added to obtain hazzy solution at 10° C. to 15° C. The reaction mixture was stirred for 2 hrs at 35° C. to 40° C. and cooled to 30° C. to 35° C. The organic layer was separated and washed with water and filtered through hyflow bed followed by washing with ethyl acetate. Ethyl acetate was taken in another RBF and was treated with 30 mg of L-lysine or L-argenine. The organic layer was further treated with butylated hydroxy toluene. The organic phase was then distilled to remove ethyl acetate completely till powder or lump of material was obtained. The solid thus obtained was treated with 100 mL of cyclohexane and stirred for 30 min. The product was filtered, washed with cyclohexane and dried at 30° C. to 35° C. The partially dried wet cake was treated with diethyl ether to obtain slurry. The slurry was filtered and dried to get atorvastatin amorphous. The product thus obtained was humidified under nitrogen atmosphere to obtain stable atorvastatin amorphous calcium with 5-6% water w/w.

reactant | 1,1-dimethylethyl-2-(4-fluorophenyl)-dihydroxy-5-(1-methylethyl)-3-phenyl-4-[(phenylamino)carbonyl]-1H-pyrrole-1-heptanoate | CC(C)(C)C(C(C(=O)[O-])(O)O)CCCCN1C(=C(C(=C1C(C)C)C(=O)NC1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F
reactant | NaOH | 2.60 gm | [OH-].[Na+]
reactant | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
reactant | calcium acetate | 10.46 gm | C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | water | 244 mL | O | H2O
solvent | water | 400 mL | O | H2O
solvent | cyclohexane | 100 mL | C1CCCCC1 | C6H12
product | atorvastatin | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
